US08877758B2
14.6 2-chloro-4-methoxy-1-methyl-1H-benzimidazole
3.7 g 4-methoxy-1-methyl-1,3-dihydrobenzimidazol-2-one are suspended in 15 ml phosphorus oxychloride. The reaction mixture is stirred for 3 hours at reflux temperature, slowly combined with ice water and made alkaline with conc. ammonia. The precipitated product is suction filtered. 3.6 g product are obtained as a solid. M.p=118-119° C.

reactant | 4-methoxy-1-methyl-1,3-dihydrobenzimidazol-2-one | 3.7 g | COC1=CC=CC=2N(C(NC21)=O)C | C9H10N2O2
reactant | ammonia | N | H3N
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-methoxy-1-methyl-1H-benzimidazole | 3.6 g | ClC1=NC2=C(N1C)C=CC=C2OC | C9H9ClN2O
